US03998814
β-Morpholinopropionitrile (20 g.), dimethylsulphoxide (30 ml.), and sodium methoxide (1 g.) were heated together at 80° C and a solution of piperonaldehyde (19 g.) in dimethylsulphoxide was added. The mixture was reacted at 80° C for 15 min., and on work-up gave β-morpholino-α-piperonylacrylonitrile. Wt.=21 g. (61%) m.p. 85°-85.5° C (recrystallised from methanol).

reactant | β-Morpholinopropionitrile | 20 g | O1CCN(CC1)CCC#N | C7H12N2O
reactant | sodium methoxide | 1 g | C[O-].[Na+]
reactant | piperonaldehyde | 19 g | C1OC2=C(O1)C=C(C=C2)C=O | C8H6O3
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
solvent | dimethylsulphoxide | 30 ml | CS(=O)C | C2H6OS
product | β-morpholino-α-piperonylacrylonitrile | O1CCN(CC1)C=C(C#N)CC1=CC=2OCOC2C=C1 | C15H16N2O3
